US07456283B2
Preparation of N-(4-methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide
Thionyl chloride (53.3 g, 448 mmol) Is added over a period of 15 min to a suspension of 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid (70.0 g, 299 mmol) in toluene (300 ml) at 0° C. At the end of the addition, the reaction mixture is heated at 23° C. over a period of 45 min. The excess of SOCl2 is removed by co-distillation with toluene under reduced pressure at 40° C. At the end of the distillation, the resulting suspension id cooled down to 0° C. and the benzoyl chloride is filtered off, washed with toluene (2×50 ml) and dried in vacuo at 45° C. overnight. Yield: 55.0 g, 79% of theory based on the di-hydrochloride salt of the benzoylchloride, white solid. The dried benzoyl chloride (55 g) is then resuspended in toluene (100 ml). A solution of 4-methyl-3-nitroaniline (22.75 g, 145 mmol) and pyridine (34.4 g, 435 mmol) in toluene (60 ml) is added dropwise at 23° C. over a period of 15 min. The resulting orange-brown reaction mixture is heated at 45° C. and is stirred for 6 hrs. The suspension is filtrated and the filtercake is washed successively with toluene (300 ml) and acetone (350 ml), and is then suspended in water (350 ml). Aqueous NaOH (30%) is added until the pH of the suspension reaches 11 and remains stable. The suspension is further stirred for 1 h at 40° C. before being filtrated. The filtercake is washed with water (5×50 ml) and dried in vacuo to give 51.3 g of the title compound (96%) as beige crystals, (98.7% area by HPLC).

reactant | Thionyl chloride | 448 mmol, 53.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid | 299 mmol, 70.0 g | CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
reactant | 4-methyl-3-nitroaniline | 145 mmol, 22.75 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | pyridine | 435 mmol, 34.4 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | 51.3 g, 96% | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)[N+](=O)[O-] | C20H24N4O3
